US07166621B2
This Example illustrates the preparation of 2-(5-ethenyl-3-pyridyloxy)-N-(4-methylpent-2-yn-4-yl)butyramide
2-(5-Bromo-3-pyridyloxy)-N-(4-methylpent-2-yn-4-yl)butyramide (0.34 g), tetrakis(triphenylphosphine) palladium (0) (0.0.02 g) and tributylvinyl tin(0.38 g) in dry toluene (5 ml) were stirred and heated to reflux for 9 hours under an atmosphere of nitrogen. The mixture was cooled to ambient temperature, stored for 72 hours then evaporated under reduced pressure to give a gum that was fractionated by chromatography (silica; diethyl ether) to give the required product, 0.16 g, as a colourless gum.

reactant | 2-(5-Bromo-3-pyridyloxy)-N-(4-methylpent-2-yn-4-yl)butyramide | 0.34 g | BrC=1C=C(C=NC1)OC(C(=O)NC(C#CC)(C)C)CC | C15H19BrN2O2
reactant | tributylvinyl tin | 0.38 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(5-ethenyl-3-pyridyloxy)-N-(4-methylpent-2-yn-4-yl)butyramide | C(=C)C=1C=C(C=NC1)OC(C(=O)NC(C#CC)(C)C)CC | C17H22N2O2
